US05637578
D. Synthesis of 2-(2-Methylpropyl)1,4,7,10,13-pentaazacyclopentadecane
A mixture of 2-(2-methylpropyl)-1,4,7,10,13-penta(p-toluenesulfonyl)-1,4,7,10,13-pentaazacyclopentadecane prepared as in Example 5C (14.1 g, 0.0135 mole) and concentrated H2SO4 (50 ml) was heated at 100° C. with stirring under a dry argon atmosphere for 69 h. To the resulting brown solution ethanol (70 mL) was added dropwise with stirring at 0° C., followed by ethyl ether (1 l). The brown solid was filtered and washed thoroughly with ethyl ether. The solid was then dissolved in H2O (100 ml) and the resulting solution washed with ethyl ether. A small amount of solid was removed by filtration, the pH was adjusted to 10-11 with 10N NaOH and the solvent was removed in vacuo. Ethanol (2×250 ml) was then added and removed in vacuo. The resulting brown oily solid was extracted with hot THF (2×500 ml) and filtered at room temperature. The filtrates were combined, the solvent was removed in vacuo and the residue was dissolved in THF and filtered. The solvent was removed in vacuo to give the crude product as a tan oil which was then dissolved in CH3CN and filtered to remove insoluble impurities. Crystallization occurred upon cooling the filtrate to -20° C. Recrystallization from cold (-20° C.) CH3CN gave 715 mg (20% yield) of the product as a white crystalline solid: mp 70°-6° C.; 1H NMR (CDCl3) δ 0.89 (d, J=6.5 Hz, 3H), 0.90 (d, J=6.6 Hz, 3H), 1.13 (m, 1H), 1.39 (m, 1H), 1.64 (sept, J=6.3 Hz, 1H), 2.05 (br s, 5H), 2.34 (m, 1H), 2.75 (m, 18H); Exact mass (M+Li)+ : calcd. 278.2896; found, 278.2919 (C14H33N5Li).

reactant | 2-(2-methylpropyl)-1,4,7,10,13-penta(p-toluenesulfonyl)-1,4,7,10,13-pentaazacyclopentadecane | CC(CC1N(CCN(CCN(CCN(CCN(C1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C49H63N5O10S5
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 70 mL | C(C)O | C2H6O
reactant | ethyl ether | 1 l | C(C)OCC | C4H10O
solvent | CH3CN | CC#N | C2H3N
product | 2-(2-Methylpropyl)1,4,7,10,13-pentaazacyclopentadecane | 715 mg, 20% yield | CC(CC1NCCNCCNCCNCCNC1)C | C14H33N5
